US05668148
Ethyl-1-(tetralin-2-yl)piperdine-4-carboxylate (7.1 g, 0.025 mol) was treated with 6N HCl (80 ml) at room temperature. After stirring overnight, the suspension was filtered off and the solid dried in vacuo to yield 1-(tetralin-2-yl)piperdine-4-carboxylic acid hydrochloride salt.

reactant | Ethyl-1-(tetralin-2-yl)piperdine-4-carboxylate | 0.025 mol, 7.1 g | C(C)OC(=O)C1CCN(CC1)C1CC2=CC=CC=C2CC1 | C18H25NO2
reactant | HCl | 6N, 80 ml | Cl | ClH
product | 1-(tetralin-2-yl)piperdine-4-carboxylic acid hydrochloride salt | Cl.C1C(CCC2=CC=CC=C12)N1CCC(CC1)C(=O)O | InChI=1S/C16H21NO2.ClH/c18-16(19)13-7-9-17(10-8-13)15-6-5-12-3-1-2-4-14(12)11-15;/h1-4,13,15H,5-11H2,(H,18,19);1H
